US07906684B2
4.0 ml of LDA 1M in THF (4.0 mmol) are added under nitrogen to a solution of p-methoxyacetophenone (500 mg, 3.3 mmol) in THF (tetrahydrofuran) (15 ml) at −78° C. The mixture is stirred for 1 h before 5 ml of a THF solution of p-tert-butylbenzaldehyde (594 mg, 3.7 mmol) are added. The reaction is allowed to reach −40° C. over the course of 1 h. A cold aqueous solution of NH4Cl 1N is subsequently added to the reaction mixture. The resultant mixture is partitioned between water (30 ml) and dichloromethane (30 ml). The resultant aqueous phase is subsequently extracted with dichloromethane (2×30 ml). The combined organic phases are dried over MgSO4. Removal of the solvent gives 3-(4-tert-butylphenyl)-3-hydroxy-1-(4-methoxyphenyl)propan-1-one.

reactant | LDA | 1M, 4.0 ml | [Li+].CC(C)[N-]C(C)C
reactant | p-methoxyacetophenone | 3.3 mmol, 500 mg | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | p-tert-butylbenzaldehyde | 3.7 mmol, 594 mg | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | NH4Cl | 1N | [NH4+].[Cl-]
solvent | THF | 15 ml | O1CCCC1 | C4H8O
solvent | THF | 5 ml | O1CCCC1 | C4H8O
solvent | THF | 4.0 mmol | O1CCCC1 | C4H8O
product | 3-(4-tert-butylphenyl)-3-hydroxy-1-(4-methoxyphenyl)propan-1-one | C(C)(C)(C)C1=CC=C(C=C1)C(CC(=O)C1=CC=C(C=C1)OC)O | C20H24O3
